US08252795B2
1-Bromo-3,5-dinitrobenzene (1 g, 4.1 mmol), 2-(dimethylamino)ethanol (0.54 g, 6.1 mmol), potassium hydroxide (0.45 g, 8.1 mmol), and water (0.5 mL) in DMF (5 mL) were heated at 80° C. After 20 hours, the reaction mixture was diluted with cold water and extracted with dichloromethane (2×100 mL). The organic phase was washed with brine, dried over sodium sulfate, filtered and concentrated. The crude product was purified by silica gel chromatography (stepwise gradient, 2% ethyl acetate in hexanes to ethyl acetate) to give 2-(3-bromo-5-nitrophenoxy)-N,N-dimethylethanamine (669 mg, 57.2% yield) as a brown oil. HPLC: Rt=1.04 min. (PHENOMENEX® Luna 5 micron C18 4.6×30 mm, 10-90% aqueous methanol containing 0.1% TFA, 2 min. gradient, flow rate=5 mL/min., detection at 254 nm). MS (ES): m/z=290.93 [M+H]+.

reactant | 1-Bromo-3,5-dinitrobenzene | 4.1 mmol, 1 g | BrC1=CC(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-] | C6H3BrN2O4
reactant | 2-(dimethylamino)ethanol | 6.1 mmol, 0.54 g | CN(CCO)C | C4H11NO
reactant | potassium hydroxide | 8.1 mmol, 0.45 g | [OH-].[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | water | 0.5 mL | O | H2O
product | 2-(3-bromo-5-nitrophenoxy)-N,N-dimethylethanamine | 669 mg, 57.2% yield | BrC=1C=C(OCCN(C)C)C=C(C1)[N+](=O)[O-] | C10H13BrN2O3
